**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 SMD Common Mode Line Filter
* Matchcode: 		WE-SL5
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.SUBCKT  1087_744272102_1m  1  2  3  4  PARAMS:
+  L1=953.27u
+  L2=174.16u
+  L3=138.94u
+  L4=84.94u
+  C1=1.16p
+  Rs1=1664.14
+  Rs2=723.16
+  Rs3=2150.48
+  Rs4=2129.37
+  R2=48.77
+  L5=40n
+  R5=600
+  C5=0.55p
+  dL3=361.34nH
+  dC3=1.39pF
+  dR3=501.94
+  dR4=14255.21
+  Rdc=0.143
+  ck=5.71pF
L3  N005  N004  {L3}
R50  N005  N004  {Rs3}
C1  N500  N003  {C1}
R500  4  N500  {R2}
L7  4  N006  {L1}
R51  4  N006  {Rs1}
L5  N006  N005  {L2}
R52  N006  N005  {Rs2}
L4  N013  N012  {L3}
R53  N013  N012  {Rs3}
C2  N501  N011  {C1}
R501  3  N501  {R2}
L8  3  N014  {L1}
R54  3  N014  {Rs1}
L6  N014  N013  {L2}
R55  N014  N013  {Rs2}
L2  N012  N011  {L4}
R56  N012  N011  {Rs4}
L1  N004  N003  {L4}
R57  N004  N003  {Rs4}
L13  N003  N002  {L5}
R58  N003  N002  {R5}
C50  N003  N002  {C5}
L14  N011  N010  {L5}
R59  N011  N010  {R5}
C51  N011  N010  {C5}
R1  N001  1  {Rdc}
R2  N009  2  {Rdc}
R3  N002  N001  {dR4}
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N007  N001  {dL3}
L10  N009  N008  {dL3}
C4  N007  N008  {ck}
C5  N503  N009  {dC3}
R503  N010  N503  {dR3}
R4  N010  N009  {dR4}
L11  N002  N007  {dL3}
L12  N008  N010  {dL3}
R5  N007  N008  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K5  L9  L10  L11  L12  1
.ends  1087_744272102_1m
**********
.SUBCKT  1087_744272121_120u  1  2  3  4  PARAMS:
+  L1=153.26u
+  L2=13.12u
+  L3=18.62u
+  L4=8.85u
+  C1=0.631p
+  Rs1=121.2
+  Rs2=313.15
+  Rs3=210.35
+  Rs4=293.08
+  R2=16.68
+  L5=9n
+  R5=3600
+  C5=0.3p
+  dL3=49.17nH
+  dC3=1.3pF
+  dR3=637.27
+  dR4=6930.35
+  Rdc=0.155
+  ck=3.8pF
L3  N005  N004  {L3}
R50  N005  N004  {Rs3}
C1  N500  N003  {C1}
R500  4  N500  {R2}
L7  4  N006  {L1}
R51  4  N006  {Rs1}
L5  N006  N005  {L2}
R52  N006  N005  {Rs2}
L4  N013  N012  {L3}
R53  N013  N012  {Rs3}
C2  N501  N011  {C1}
R501  3  N501  {R2}
L8  3  N014  {L1}
R54  3  N014  {Rs1}
L6  N014  N013  {L2}
R55  N014  N013  {Rs2}
L2  N012  N011  {L4}
R56  N012  N011  {Rs4}
L1  N004  N003  {L4}
R57  N004  N003  {Rs4}
L13  N003  N002  {L5}
R58  N003  N002  {R5}
C50  N003  N002  {C5}
L14  N011  N010  {L5}
R59  N011  N010  {R5}
C51  N011  N010  {C5}
R1  N001  1  {Rdc}
R2  N009  2  {Rdc}
R3  N002  N001  {dR4}
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N007  N001  {dL3}
L10  N009  N008  {dL3}
C4  N007  N008  {ck}
C5  N503  N009  {dC3}
R503  N010  N503  {dR3}
R4  N010  N009  {dR4}
L11  N002  N007  {dL3}
L12  N008  N010  {dL3}
R5  N007  N008  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K5  L9  L10  L11  L12  1
.ends  1087_744272121_120u
**********
.SUBCKT  1087_744272221_220u  1  2  3  4  PARAMS:
+  L1=136.42u
+  L2=11.01u
+  L3=31.73u
+  L4=10.65u
+  C1=0.766p
+  Rs1=238.39
+  Rs2=356.39
+  Rs3=489.72
+  Rs4=358.73
+  R2=0.1
+  L5=10n
+  R5=1000
+  C5=0.3p
+  dL3=77.03nH
+  dC3=0.357pF
+  dR3=760.87
+  dR4=2511.33
+  Rdc=0.0235
+  ck=4.4pF
L3  N005  N004  {L3}
R50  N005  N004  {Rs3}
C1  N500  N003  {C1}
R500  4  N500  {R2}
L7  4  N006  {L1}
R51  4  N006  {Rs1}
L5  N006  N005  {L2}
R52  N006  N005  {Rs2}
L4  N013  N012  {L3}
R53  N013  N012  {Rs3}
C2  N501  N011  {C1}
R501  3  N501  {R2}
L8  3  N014  {L1}
R54  3  N014  {Rs1}
L6  N014  N013  {L2}
R55  N014  N013  {Rs2}
L2  N012  N011  {L4}
R56  N012  N011  {Rs4}
L1  N004  N003  {L4}
R57  N004  N003  {Rs4}
L13  N003  N002  {L5}
R58  N003  N002  {R5}
C50  N003  N002  {C5}
L14  N011  N010  {L5}
R59  N011  N010  {R5}
C51  N011  N010  {C5}
R1  N001  1  {Rdc}
R2  N009  2  {Rdc}
R3  N002  N001  {dR4}
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N007  N001  {dL3}
L10  N009  N008  {dL3}
C4  N007  N008  {ck}
C5  N503  N009  {dC3}
R503  N010  N503  {dR3}
R4  N010  N009  {dR4}
L11  N002  N007  {dL3}
L12  N008  N010  {dL3}
R5  N007  N008  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K5  L9  L10  L11  L12  1
.ends  1087_744272221_220u
**********
.SUBCKT  1087_744272251_250u  1  2  3  4  PARAMS:
+  L1=344.54u
+  L2=70.01u
+  L3=21.72u
+  L4=29.91u
+  C1=1.21p
+  Rs1=328.19
+  Rs2=315.21
+  Rs3=658.23
+  Rs4=643.55
+  R2=0.11
+  L5=11n
+  R5=600
+  C5=0.45p
+  dL3=98.32nH
+  dC3=1.18pF
+  dR3=1194.47
+  dR4=13765.42
+  Rdc=0.054
+  ck=5.6pF
L3  N005  N004  {L3}
R50  N005  N004  {Rs3}
C1  N500  N003  {C1}
R500  4  N500  {R2}
L7  4  N006  {L1}
R51  4  N006  {Rs1}
L5  N006  N005  {L2}
R52  N006  N005  {Rs2}
L4  N013  N012  {L3}
R53  N013  N012  {Rs3}
C2  N501  N011  {C1}
R501  3  N501  {R2}
L8  3  N014  {L1}
R54  3  N014  {Rs1}
L6  N014  N013  {L2}
R55  N014  N013  {Rs2}
L2  N012  N011  {L4}
R56  N012  N011  {Rs4}
L1  N004  N003  {L4}
R57  N004  N003  {Rs4}
L13  N003  N002  {L5}
R58  N003  N002  {R5}
C50  N003  N002  {C5}
L14  N011  N010  {L5}
R59  N011  N010  {R5}
C51  N011  N010  {C5}
R1  N001  1  {Rdc}
R2  N009  2  {Rdc}
R3  N002  N001  {dR4}
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N007  N001  {dL3}
L10  N009  N008  {dL3}
C4  N007  N008  {ck}
C5  N503  N009  {dC3}
R503  N010  N503  {dR3}
R4  N010  N009  {dR4}
L11  N002  N007  {dL3}
L12  N008  N010  {dL3}
R5  N007  N008  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K5  L9  L10  L11  L12  1
.ends  1087_744272251_250u
**********
.SUBCKT  1087_744272471_470u  1  2  3  4  PARAMS:
+  L1=439.54u
+  L2=43.43u
+  L3=65.47u
+  L4=24.79u
+  C1=1.39p
+  Rs1=777.17
+  Rs2=949.82
+  Rs3=1089.23
+  Rs4=984.54
+  R2=3.68
+  L5=15n
+  R5=600
+  C5=0.55p
+  dL3=201.86nH
+  dC3=0.897pF
+  dR3=1499.05
+  dR4=6803.19
+  Rdc=0.063
+  ck=6.26pF
L3  N005  N004  {L3}
R50  N005  N004  {Rs3}
C1  N500  N003  {C1}
R500  4  N500  {R2}
L7  4  N006  {L1}
R51  4  N006  {Rs1}
L5  N006  N005  {L2}
R52  N006  N005  {Rs2}
L4  N013  N012  {L3}
R53  N013  N012  {Rs3}
C2  N501  N011  {C1}
R501  3  N501  {R2}
L8  3  N014  {L1}
R54  3  N014  {Rs1}
L6  N014  N013  {L2}
R55  N014  N013  {Rs2}
L2  N012  N011  {L4}
R56  N012  N011  {Rs4}
L1  N004  N003  {L4}
R57  N004  N003  {Rs4}
L13  N003  N002  {L5}
R58  N003  N002  {R5}
C50  N003  N002  {C5}
L14  N011  N010  {L5}
R59  N011  N010  {R5}
C51  N011  N010  {C5}
R1  N001  1  {Rdc}
R2  N009  2  {Rdc}
R3  N002  N001  {dR4}
C3  N502  N001  {dC3}
R502  N002  N502  {dR3}
L9  N007  N001  {dL3}
L10  N009  N008  {dL3}
C4  N007  N008  {ck}
C5  N503  N009  {dC3}
R503  N010  N503  {dR3}
R4  N010  N009  {dR4}
L11  N002  N007  {dL3}
L12  N008  N010  {dL3}
R5  N007  N008  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K5  L9  L10  L11  L12  1
.ends  1087_744272471_470u
**********
.SUBCKT  1087_744272222_2.2m  1  2  3  4  PARAMS:
+  L1=25.84m
+  L2=1.4m
+  L3=482.43u
+  L4=186.2u
+  C1=2.21p
+  Rs1=2438.41
+  Rs2=2357.43
+  Rs3=4143.93
+  Rs4=5386.09
+  R2=76.12
+  L5=95n
+  R5=1100
+  C5=1.4p
+  dL3=2.9n
+  dC3=3.15pF
+  dR3=280
+  Rdc=0.308
L3  N014  N013  {L3}
R50  N014  N013  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N015  {L1}
R51  4  N015  {Rs1}
L5  N015  N014  {L2}
R52  N015  N014  {Rs2}
L4  N029  N028  {L3}
R53  N029  N028  {Rs3}
C2  N501  N027  {C1}
R501  3  N501  {R2}
L8  3  N030  {L1}
R54  3  N030  {Rs1}
L6  N030  N029  {L2}
R55  N030  N029  {Rs2}
L2  N028  N027  {L4}
R56  N028  N027  {Rs4}
L1  N013  N001  {L4}
R57  N013  N001  {Rs4}
L13  N001  N003  {L5}
R58  N001  N003  {R5}
C50  N001  N003  {C5}
L14  N027  N026  {L5}
R59  N027  N026  {R5}
C51  N027  N026  {C5}
R1  N002  1  {Rdc}
R2  N017  2  {Rdc}
L9  N004  N002  {dL3}
C3  N004  N016  {dC3}
L10  N005  N004  {dL3}
L11  N017  N016  {dL3}
L12  N016  N018  {dL3}
C4  N005  N018  {dC3}
L15  N006  N005  {dL3}
L16  N018  N019  {dL3}
C5  N006  N019  {dC3}
L17  N007  N006  {dL3}
L18  N019  N020  {dL3}
R3  N003  N002  {dR3}
R4  N026  N017  {dR3}
C6  N007  N020  {dC3}
L19  N008  N007  {dL3}
L20  N020  N021  {dL3}
C7  N008  N021  {dC3}
L21  N009  N008  {dL3}
L22  N021  N022  {dL3}
C8  N009  N022  {dC3}
L23  N010  N009  {dL3}
L24  N022  N023  {dL3}
C9  N010  N023  {dC3}
L25  N011  N010  {dL3}
L26  N023  N024  {dL3}
C10  N011  N024  {dC3}
L27  N012  N011  {dL3}
L28  N024  N025  {dL3}
C11  N012  N025  {dC3}
L29  N003  N012  {dL3}
L30  N025  N026  {dL3}
R5  N004  N016  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
K14  L19  L20  1
K15  L21  L22  1
K16  L23  L24  1
K17  L25  L26  1
K18  L27  L28  1
K19  L29  L30  1
.ends  1087_744272222_2.2m
**********
.SUBCKT  1087_744272332_3.3m  1  2  3  4  PARAMS:
+  L1=22.04m
+  L2=300.57u
+  L3=758.21u
+  L4=264.69u
+  C1=2.47p
+  Rs1=5431.79
+  Rs2=5377.15
+  Rs3=505.07
+  Rs4=5496.33
+  R2=38.28
+  L5=165n
+  R5=1300
+  C5=2.4p
+  dL3=2.9n
+  dC3=4.1pF
+  dR3=280
+  Rdc=0.457
+  L6=11n
+  R6=600
+  C6=0.4p
L3  N015  N014  {L3}
R50  N015  N014  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N016  {L1}
R51  4  N016  {Rs1}
L5  N016  N015  {L2}
R52  N016  N015  {Rs2}
L4  N031  N030  {L3}
R53  N031  N030  {Rs3}
C2  N501  N029  {C1}
R501  3  N501  {R2}
L8  3  N032  {L1}
R54  3  N032  {Rs1}
L6  N032  N031  {L2}
R55  N032  N031  {Rs2}
L2  N030  N029  {L4}
R56  N030  N029  {Rs4}
L1  N014  N001  {L4}
R57  N014  N001  {Rs4}
L13  N001  N013  {L5}
R58  N001  N013  {R5}
C50  N001  N013  {C5}
L14  N029  N028  {L5}
R59  N029  N028  {R5}
C51  N029  N028  {C5}
R1  N002  1  {Rdc}
R2  N018  2  {Rdc}
L9  N004  N002  {dL3}
C3  N004  N017  {dC3}
L10  N005  N004  {dL3}
L11  N018  N017  {dL3}
L12  N017  N019  {dL3}
C4  N005  N019  {dC3}
L15  N006  N005  {dL3}
L16  N019  N020  {dL3}
C5  N006  N020  {dC3}
L17  N007  N006  {dL3}
L18  N020  N021  {dL3}
R3  N003  N002  {dR3}
R4  N027  N018  {dR3}
C6  N007  N021  {dC3}
L19  N008  N007  {dL3}
L20  N021  N022  {dL3}
C7  N008  N022  {dC3}
L21  N009  N008  {dL3}
L22  N022  N023  {dL3}
C8  N009  N023  {dC3}
L23  N010  N009  {dL3}
L24  N023  N024  {dL3}
C9  N010  N024  {dC3}
L25  N011  N010  {dL3}
L26  N024  N025  {dL3}
C10  N011  N025  {dC3}
L27  N012  N011  {dL3}
L28  N025  N026  {dL3}
C11  N012  N026  {dC3}
L29  N003  N012  {dL3}
L30  N026  N027  {dL3}
L31  N013  N003  {L6}
R60  N013  N003  {R6}
C52  N013  N003  {C6}
L32  N028  N027  {L6}
R61  N028  N027  {R6}
C53  N028  N027  {C6}
R5  N004  N017  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
K14  L19  L20  1
K15  L21  L22  1
K16  L23  L24  1
K17  L25  L26  1
K18  L27  L28  1
K19  L29  L30  1
K7  L31  L32  1
.ends  1087_744272332_3.3m
**********
.SUBCKT  1087_744272392_3.9m  1  2  3  4  PARAMS:
+  L1=104.4m
+  L2=4.07m
+  L3=202.74u
+  L4=300.61u
+  C1=2.26p
+  Rs1=3902.24
+  Rs2=6341.76
+  Rs3=4390.46
+  Rs4=5001.97
+  R2=66.46
+  L5=175n
+  R5=1400
+  C5=2.4p
+  dL3=3.5n
+  dC3=4pF
+  dR3=240
+  Rdc=0.406
+  L6=8n
+  R6=600
+  C6=0.4p
L3  N015  N014  {L3}
R50  N015  N014  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N016  {L1}
R51  4  N016  {Rs1}
L5  N016  N015  {L2}
R52  N016  N015  {Rs2}
L4  N031  N030  {L3}
R53  N031  N030  {Rs3}
C2  N501  N029  {C1}
R501  3  N501  {R2}
L8  3  N032  {L1}
R54  3  N032  {Rs1}
L6  N032  N031  {L2}
R55  N032  N031  {Rs2}
L2  N030  N029  {L4}
R56  N030  N029  {Rs4}
L1  N014  N001  {L4}
R57  N014  N001  {Rs4}
L13  N001  N013  {L5}
R58  N001  N013  {R5}
C50  N001  N013  {C5}
L14  N029  N028  {L5}
R59  N029  N028  {R5}
C51  N029  N028  {C5}
R1  N002  1  {Rdc}
R2  N018  2  {Rdc}
L9  N004  N002  {dL3}
C3  N004  N017  {dC3}
L10  N005  N004  {dL3}
L11  N018  N017  {dL3}
L12  N017  N019  {dL3}
C4  N005  N019  {dC3}
L15  N006  N005  {dL3}
L16  N019  N020  {dL3}
C5  N006  N020  {dC3}
L17  N007  N006  {dL3}
L18  N020  N021  {dL3}
R3  N003  N002  {dR3}
R4  N027  N018  {dR3}
C6  N007  N021  {dC3}
L19  N008  N007  {dL3}
L20  N021  N022  {dL3}
C7  N008  N022  {dC3}
L21  N009  N008  {dL3}
L22  N022  N023  {dL3}
C8  N009  N023  {dC3}
L23  N010  N009  {dL3}
L24  N023  N024  {dL3}
C9  N010  N024  {dC3}
L25  N011  N010  {dL3}
L26  N024  N025  {dL3}
C10  N011  N025  {dC3}
L27  N012  N011  {dL3}
L28  N025  N026  {dL3}
C11  N012  N026  {dC3}
L29  N003  N012  {dL3}
L30  N026  N027  {dL3}
L31  N013  N003  {L6}
R60  N013  N003  {R6}
C52  N013  N003  {C6}
L32  N028  N027  {L6}
R61  N028  N027  {R6}
C53  N028  N027  {C6}
R5  N004  N017  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
K14  L19  L20  1
K15  L21  L22  1
K16  L23  L24  1
K17  L25  L26  1
K18  L27  L28  1
K19  L29  L30  1
K7  L31  L32  1
.ends  1087_744272392_3.9m
**********
.SUBCKT  1087_744272472_4.7m  1  2  3  4  PARAMS:
+  L1=279.91u
+  L2=8.01m
+  L3=4.28m
+  L4=103.67u
+  C1=3.66p
+  Rs1=7341.26
+  Rs2=7341.26
+  Rs3=7341.26
+  Rs4=7341.26
+  R2=52.39
+  L5=195n
+  R5=1900
+  C5=2.4p
+  dL3=3.5n
+  dC3=4.6pF
+  dR3=270
+  Rdc=0.406
+  L6=12n
+  R6=800
+  C6=0.4p
L3  N015  N014  {L3}
R50  N015  N014  {Rs3}
C1  N500  N001  {C1}
R500  4  N500  {R2}
L7  4  N016  {L1}
R51  4  N016  {Rs1}
L5  N016  N015  {L2}
R52  N016  N015  {Rs2}
L4  N031  N030  {L3}
R53  N031  N030  {Rs3}
C2  N501  N029  {C1}
R501  3  N501  {R2}
L8  3  N032  {L1}
R54  3  N032  {Rs1}
L6  N032  N031  {L2}
R55  N032  N031  {Rs2}
L2  N030  N029  {L4}
R56  N030  N029  {Rs4}
L1  N014  N001  {L4}
R57  N014  N001  {Rs4}
L13  N001  N013  {L5}
R58  N001  N013  {R5}
C50  N001  N013  {C5}
L14  N029  N028  {L5}
R59  N029  N028  {R5}
C51  N029  N028  {C5}
R1  N002  1  {Rdc}
R2  N018  2  {Rdc}
L9  N004  N002  {dL3}
C3  N004  N017  {dC3}
L10  N005  N004  {dL3}
L11  N018  N017  {dL3}
L12  N017  N019  {dL3}
C4  N005  N019  {dC3}
L15  N006  N005  {dL3}
L16  N019  N020  {dL3}
C5  N006  N020  {dC3}
L17  N007  N006  {dL3}
L18  N020  N021  {dL3}
R3  N003  N002  {dR3}
R4  N027  N018  {dR3}
C6  N007  N021  {dC3}
L19  N008  N007  {dL3}
L20  N021  N022  {dL3}
C7  N008  N022  {dC3}
L21  N009  N008  {dL3}
L22  N022  N023  {dL3}
C8  N009  N023  {dC3}
L23  N010  N009  {dL3}
L24  N023  N024  {dL3}
C9  N010  N024  {dC3}
L25  N011  N010  {dL3}
L26  N024  N025  {dL3}
C10  N011  N025  {dC3}
L27  N012  N011  {dL3}
L28  N025  N026  {dL3}
C11  N012  N026  {dC3}
L29  N003  N012  {dL3}
L30  N026  N027  {dL3}
L31  N013  N003  {L6}
R60  N013  N003  {R6}
C52  N013  N003  {C6}
L32  N028  N027  {L6}
R61  N028  N027  {R6}
C53  N028  N027  {C6}
R5  N004  N017  1000g
K2  L3  L4  1
K3  L5  L6  1
K4  L7  L8  1
K1  L1  L2  1
K6  L13  L14  1
K10  L9  L11  1
K11  L10  L12  1
K12  L15  L16  1
K13  L17  L18  1
K14  L19  L20  1
K15  L21  L22  1
K16  L23  L24  1
K17  L25  L26  1
K18  L27  L28  1
K19  L29  L30  1
K7  L31  L32  1
.ends  1087_744272472_4.7m